US05821247
6-Amino-3-methyl-1-phenyl-2,4 (1H, 3H)-pyrimidinedione (5.00 g, 23 mmol) was suspended in dimethylformamide (77 ml). To the resultant suspension was added phosphorus oxychloride (2.57mL,27.6 mmol), and the resultant mixture was reacted at 60° C. for 3 h. The reaction mixture was diluted with water, and adjusted to ca. pH 12 with sodium hydroxide. The precipitates formed in the reaction mixture was filtered to give a crude product. The crude product was recrystallized from a mixture of ethanol, ethyl acetate and water to give an aldehyde, 6-amino-5-formyl-3-methyl-1-phenyl-2,4 (1H, 3H)-pyrimidinedione (yield 75%).

reactant | 6-Amino-3-methyl-1-phenyl-2,4 (1H, 3H)-pyrimidinedione | 23 mmol, 5.00 g | NC1=CC(N(C(N1C1=CC=CC=C1)=O)C)=O | C11H11N3O2
reactant | phosphorus oxychloride | 27.6 mmol, 2.57mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethylformamide | 77 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-amino-5-formyl-3-methyl-1-phenyl-2,4 (1H, 3H)-pyrimidinedione | yield 75% | NC1=C(C(N(C(N1C1=CC=CC=C1)=O)C)=O)C=O | C12H11N3O3
